US04472400
A mixture of 159 g of methyl anthranilate (1.053 mole), 5 ml of triethylamine and 134 g of n-propylisocyanate (1.58 mole) in 700 ml of petroleum ether (60°-80° C.) was refluxed for seventeen hours until TLC (CH2Cl2, silica) indicated that no methyl antranilate remained. The mixture was cooled and the precipitate was filtered off, washed with a little cold petroleum ether and dried under vacuum at room temperature to obtain 236 g (95% yield) of methyl N-(N'-n-propylcarbamoyl)-anthranilate melting at 101.5°-102.5° C.

reactant | methyl anthranilate | 1.053 mole, 159 g | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | n-propylisocyanate | 1.58 mole, 134 g | C(CC)N=C=O | C4H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | methyl N-(N'-n-propylcarbamoyl)-anthranilate | 236 g, 95% yield | C(CC)NC(=O)NC=1C(C(=O)OC)=CC=CC1 | C12H16N2O3
